US07361671B2
A solution of 5,6-dichloro-pyridin-3-yl-methanol (5.0 g, 28.1 mmol) and tetrabenzyltin (14.0 g, 29 mmol) in DMF (40 mL, 0.7 M) is degassed under nitrogen and treated with PdP(Ph3)4 (1.3 g, 1.2 mmol). The solution is warmed to 125° C. for 48 h, cooled to room temperature and treated with 50% aq KF (100 mL) and stirred for 40 min. Water (50 mL) is added and the solids are filtered and washed with ethyl acetate (150 mL). The organic phase is washed with H2O (100 mL), saturated aq LiCl (50 mL) and dried over Na2SO4. The product is purified by MPLC (30-90% ethyl acetate in n-heptane) to provide 6-benzyl-5-chloro-pyridin-3-yl-methanol as a white solid (4.25 g, 64%): Rf 0.27 (30% ethyl acetate in n-heptane), 1H NMR (CDCl3, 300 MHz) δ 8.42 (s, 1 H), 7.71 (s, 1 H), 7.42-7.16 (m, 5 H), 4.69 (s, 2 H), 4.31 (s, 2 H); ESI-LCMS m/z calcd for C13H12ClNO: 233.1; found 234.0 (M+1)+.

reactant | 5,6-dichloro-pyridin-3-yl-methanol | 28.1 mmol, 5.0 g | ClC=1C=C(C=NC1Cl)CO | C6H5Cl2NO
reactant | tetrabenzyltin | 29 mmol, 14.0 g | C(C1=CC=CC=C1)[Sn](CC1=CC=CC=C1)(CC1=CC=CC=C1)CC1=CC=CC=C1
reactant | KF | 100 mL | [F-].[K+]
reactant | Water | 50 mL | O | H2O
solvent | DMF | 0.7 M, 40 mL | CN(C)C=O | C3H7NO
product | 6-benzyl-5-chloro-pyridin-3-yl-methanol | 4.25 g, 64% | C(C1=CC=CC=C1)C1=C(C=C(C=N1)CO)Cl | C13H12ClNO
